US07989444B2
4-Methyl-8-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 4-methyl-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one (37 mg) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a colourless sticky solid (41 mg).

reactant | 4-methyl-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one | 37 mg | CN1C(COC=2C1=CC1=C(CCNCC1)C2)=O | C13H16N2O2
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 4-Methyl-8-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one hydrochloride | Cl.CN1C(COC=2C1=CC1=C(CCN(CC1)CCCSC1=NN=C(N1C)C1=C3C=CC(=NC3=CC=C1)C)C2)=O | InChI=1S/C29H32N6O2S.ClH/c1-19-8-9-22-23(6-4-7-24(22)30-19)28-31-32-29(34(28)3)38-15-5-12-35-13-10-20-16-25-26(17-21(20)11-14-35)37-18-27(36)33(25)2;/h4,6-9,16-17H,5,10-15,18H2,1-3H3;1H
